US09255110B2
To a solution of 3-(4-chloro-2-nitro-phenoxy)-cyclopentanecarboxylic acid ethyl ester (280 mg) in dichloromethane (20 mL) was added zinc dust (2 g) followed by glacial acetic acid (1 mL) and the resulting mixture was stirred at room temperature for 20 minutes. The solid was filtered, washed with dichloromethane and discarded. The filtrate was evaporated under reduced pressure and the residue was purified by flash chromatography (hexane/acetone, 80/20) to afford 200 mg of 3-(2-amino-4-chloro-phenoxy)-cyclopentanecarboxylic acid ethyl ester.

reactant | 3-(4-chloro-2-nitro-phenoxy)-cyclopentanecarboxylic acid ethyl ester | 280 mg | C(C)OC(=O)C1CC(CC1)OC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C14H16ClNO5
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | zinc | 2 g | [Zn] | Zn
product | 3-(2-amino-4-chloro-phenoxy)-cyclopentanecarboxylic acid ethyl ester | 200 mg | C(C)OC(=O)C1CC(CC1)OC1=C(C=C(C=C1)Cl)N | C14H18ClNO3
